US08080580B2
(4S,5S)-3,4,5-tris-benzyloxy-2-{4-fluoro-3-[4-(tetrahydro-furan-3-yloxy)-benzyl]-phenyl}-6,6-bis-(4-methoxy-benzyloxymethyl)-tetrahydro-pyran-2-ol (I-11i)
n-Butyl lithium (1.0 mL, 2.5 M/hexanes, 3.0 equivalents) was added dropwise (1 drop every 5 seconds) to an oxygen degassed solution of 3-[4-(5-bromo-2-fluoro-benzyl)-phenoxy]-tetrahydro-furan (878 mg, 2.50 mmol) in anhydrous tetrahydrofuran (3.0 mL) at −78° C. and the resulting solution was stirred at this temperature for 1 hour. A solution of (2R,3S,4S)-2,3,4-tris-benzyloxy-5-hydroxy-6-(4-methoxy-benzyloxy)-5-(4-methoxy-benzyloxymethyl)-hexanoic acid methoxy-methyl-amide I-1g (650 mg, 0.833 mmol) in anhydrous tetrahydrofuran (1.5 mL) was then added dropwise very slowly (0.9 mL/hour) and the resulting mixture was stirred at −78° C. for an additional hour before warming to 10° C. over 12 hours (put in a deep Dewar covered with aluminum foil to maintain cold temperature). The reaction was diluted with diethyl ether and quenched by the dropwise addition of aqueous 1N hydrochloric acid solution. The resulting biphasic mixture was stirred at room temperature for 15 minutes. The organic phase was separated, washed with brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude residue was purified by flash chromatography over silica gel (eluting with a gradient of 10 to 40% ethyl acetate in heptane) to afford the product as a mixture of isomers (287 mg, 34% yield)

reactant | n-Butyl lithium | 2.5 M, 1.0 mL, 3.0 equivalents | C(CCC)[Li]
reactant | oxygen | O=O | O2
reactant | 3-[4-(5-bromo-2-fluoro-benzyl)-phenoxy]-tetrahydro-furan | 2.50 mmol, 878 mg | BrC=1C=CC(=C(CC2=CC=C(OC3COCC3)C=C2)C1)F | C17H16BrFO2
reactant | (2R,3S,4S)-2,3,4-tris-benzyloxy-5-hydroxy-6-(4-methoxy-benzyloxy)-5-(4-methoxy-benzyloxymethyl)-hexanoic acid methoxy-methyl-amide | 0.833 mmol, 650 mg | CON(C([C@@H]([C@H]([C@@H](C(COCC1=CC=C(C=C1)OC)(COCC1=CC=C(C=C1)OC)O)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)C | C46H53NO10
reactant | aluminum | [Al] | Al
reactant | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (4S,5S)-3,4,5-tris-benzyloxy-2-{4-fluoro-3-[4-(tetrahydro-furan-3-yloxy)-benzyl]-phenyl}-6,6-bis-(4-methoxy-benzyloxymethyl)-tetrahydro-pyran-2-ol | 34% yield | C(C1=CC=CC=C1)OC1C(OC([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)(COCC1=CC=C(C=C1)OC)COCC1=CC=C(C=C1)OC)(O)C1=CC(=C(C=C1)F)CC1=CC=C(C=C1)OC1COCC1 | C61H63FO11
